US09169249B2
Preparation of 8-Fluoro-2,2-dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-thione
To a solution of 8-Fluoro-2,2-dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (0.75 g, 3.1 mmol) in 25 ml anhydrous THF, P2S5 (2.8 g, 6.25 mmol) was added and the reaction mixture was heated to reflux for 12 hours. Analysis of LC-MS indicated the completion of the reaction. Volatiles were removed in vacuo and the crude reaction mixture was partitioned in EtOAc (100 ml) and saturated aqueous NH4Cl (100 ml). Layers were separated and the organic layer was washed (×2) with saturated aqueous NH4Cl (50 ml). EtOAc layer was dried over Na2SO4 and concentrated to give the product in 69% yield (0.55 g). LCMS (m/z) 257 (MH+).

reactant | 8-Fluoro-2,2-dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 3.1 mmol, 0.75 g | FC1=CC(=CC2=C1OC(C(N2)=O)(C)C)[N+](=O)[O-] | C10H9FN2O4
reactant | P2S5 | 6.25 mmol, 2.8 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 8-Fluoro-2,2-dimethyl-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-thione | 69% yield | FC1=CC(=CC2=C1OC(C(N2)=S)(C)C)[N+](=O)[O-] | C10H9FN2O3S
